US07943795B2
D. 6-(1-Ethyl-1-hydroxypropyl)naphthalen-2-ol
Treat a mixture of 3-(6-benzyloxynaphthalen-2-yl)pentan-3-ol (1.5 g, 4.68 mmol) and 5% PdlAl2CO3 (0.90 g) in ethanol (750 mL) with hydrogen at 60 psi for 8 h at RT. Filter the catalyst from the reaction mixture and concentrate the filtrate to give the title compound as a yellow solid (0.94 g, 87%). MS (ES) m/e 229 (M−1).

reactant | 3-(6-benzyloxynaphthalen-2-yl)pentan-3-ol | 4.68 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)C(CC)(CC)O | C22H24O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 750 mL | C(C)O | C2H6O
product | 6-(1-Ethyl-1-hydroxypropyl)naphthalen-2-ol | 0.94 g, 87% | C(C)C(CC)(O)C=1C=C2C=CC(=CC2=CC1)O | C15H18O2
